US08030302B2
2,4-Dibromo-5-hydroxy-benzaldehyde (50 g, 178.6 mmol), 1,2-difluoro-4-nitrobenzene (28.4 g, 178.6 mmol) and potassium carbonate (49.0 g, 357.2 mmol) are stirred in DMF (500 mL) at 60° C. for 2 hours. The reaction is quenched with water (1000 mL) and extracted with methyl tert-butylether (MTBE) (2×500 mL). The organic layer is washed with saturated sodium chloride aqueous solution (2×500 mL), dried with anhydrous sodium sulfate, and concentrated to obtain a yellow solid. The crude solid is recrystallized in EtOAc/PE (1:5) to give 2,4-dibromo-5-(2-fluoro-4-nitrophenoxy)benzaldehyde as a yellow solid (52.8 g, 70.6% yield).

reactant | 2,4-Dibromo-5-hydroxy-benzaldehyde | 178.6 mmol, 50 g | BrC1=C(C=O)C=C(C(=C1)Br)O | C7H4Br2O2
reactant | 1,2-difluoro-4-nitrobenzene | 178.6 mmol, 28.4 g | FC1=C(C=C(C=C1)[N+](=O)[O-])F | C6H3F2NO2
reactant | potassium carbonate | 357.2 mmol, 49.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
product | 2,4-dibromo-5-(2-fluoro-4-nitrophenoxy)benzaldehyde | 52.8 g, 70.6% yield | BrC1=C(C=O)C=C(C(=C1)Br)OC1=C(C=C(C=C1)[N+](=O)[O-])F | C13H6Br2FNO4
